US07304162B2
A 1 L flask equipped with a mechanical stirrer, thermometer, and addition funnel was charged with 250 mL of methanol and cooled to 0° C. Barium oxide (9.8 g, 64 mmol) was added portion-wise with exotherm. The reaction was cooled to 0° C., and hydrazine monohydrate (64.1 g, 1.28 mol) was slowly added. The reaction mixture was stirred for 10 minutes, after which time benzaldehyde (135.8 g, 1.28 mol) was added drop-wise over a 30 minute period. The reaction was then stirred for 1 hour, while maintaining a temperature below 8° C. 1H NMR indicated the absence of ketone and a complete reaction. Ether (200 mL) was added, and the BaO was filtered through a bed of silica gel. The resultant clear filtrate was liberated of methanol on a rotary evaporator at or below room temperature. A large mass of bright yellow solid azine (1H-NMR (300 MHz, CDCl3)δ(ppm): 8.67 (s, 2H), 7.85 (m, 4H), 7.47 (m, 6H)), was removed by filtration, and the filtrate was distilled to provide ca. 12 g of distillate benzylidene-hydrazine. The material was stored under refrigeration. 1H-NMR (300 MHz, CDCl3)δ(ppm): 7.74 (s, 1H), 7.53 (m, 2H), 7.35 (m, 3H), 5.5 (br, 2H).

reactant | methanol | 250 mL | CO | CH4O
reactant | Barium oxide | 64 mmol, 9.8 g | [O-2].[Ba+2]
reactant | hydrazine monohydrate | 1.28 mol, 64.1 g | O.NN
reactant | benzaldehyde | 1.28 mol, 135.8 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | Ether | 200 mL | CCOCC | C4H10O
product | benzylidene-hydrazine | ca. 12 g | C(C1=CC=CC=C1)=NN | C7H8N2
